US20010008893A1
1-(4-Benzyloxyphenoxy)-3-[4-(2-methoxy-5-methylphenyl)-1-piperazinyl] propan-2-ol
Using 1.37 g of 1-(4-benzyloxyphenoxy)-2,3-epoxypropane, 50 ml of dioxane, 1.49 g of 1-(2-methoxy-5-methylphenyl)piperazine dihydrochloride and 1.6 ml of triethylamine, reaction and workup were carried out as in Example 1-A. Purification by column chromatography (silica gel, elution with ethyl acetate:hexane= 1:1) gave 2.21 g of pale yellow oil.

reactant | 1-(4-benzyloxyphenoxy)-2,3-epoxypropane | 1.37 g | C(C1=CC=CC=C1)OC1=CC=C(OCC2CO2)C=C1 | C16H16O3
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | 1-(2-methoxy-5-methylphenyl)piperazine dihydrochloride | 1.49 g | Cl.Cl.COC1=C(C=C(C=C1)C)N1CCNCC1
solvent | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-Benzyloxyphenoxy)-3-[4-(2-methoxy-5-methylphenyl)-1-piperazinyl] propan-2-ol | 2.21 g | C(C1=CC=CC=C1)OC1=CC=C(OCC(CN2CCN(CC2)C2=C(C=CC(=C2)C)OC)O)C=C1 | C28H34N2O4
